* CurveCraft MOSFET Id-Vds DC sweep validation
Vds drain 0 0
Vgs gate 0 2
M1 drain gate 0 0 curve_nmos W=1 L=1
.model curve_nmos NMOS (LEVEL=1 VTO=1.00000545144 KP=0.000999994233855 LAMBDA=7.24592384414e-06)
.dc Vds 0 2 0.5
.print dc v(drain) i(Vds)
.end
